US08039469B2
To a mixture of 2,2-difluoroacetic acid (20 mg, 0.21 mmol), HBTU (76 mg, 0.2 mmol), and DIEA (52 mg, 0.40 mmol) in 2 mL of DMF was added 4-(4,6-dimorpholino-1,3,5-triazin-2-yl) aniline (40 mg, 0.12 mmol). The reaction was stirred at 60° C. 16 hr. Then the reaction mixture was cooled to room temperature and purified by reverse phase chromatography to give N-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-2,2-difluoroacetamide (23 mg, 46% yield). HPLC: Rt=2.19 min; MS 421 [M+H].

reactant | 2,2-difluoroacetic acid | 0.21 mmol, 20 mg | FC(C(=O)O)F | C2H2F2O2
reactant | HBTU | 0.2 mmol, 76 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.40 mmol, 52 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(4,6-dimorpholino-1,3,5-triazin-2-yl) aniline | 0.12 mmol, 40 mg | O1CCN(CC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(N)C=C1 | C17H22N6O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-2,2-difluoroacetamide | 23 mg, 46% yield | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(C(F)F)=O | C19H22F2N6O3
